US07612079B2
(2-Chloro-9H-purin-6-yl)-(3,4-dimethoxy-benzyl)-amine
2,6-Dichloro-9H-purine (1.7 g, 9 mmol), veratrylamine (1.5 g, 9 mmol) and Et3N (2.51 mL, 18 mmol) were dissolved in BunOH (10 ML). The solution was stirred for 2 h at 90° C. After cooling, PriOH (90 mL) was added slowly with stirring. After 1 h the precipitate was filtered, washed successively with small quantities of PriOH and Pri2O, and dried in vacuo to afford the title compound as a white powder (2.69 g, 93.4%). TLC (9:1 CH2Cl3/MeOH/AcOH): RF=0.33.

reactant | 2,6-Dichloro-9H-purine | 9 mmol, 1.7 g | ClC1=NC(=C2N=CNC2=N1)Cl | C5H2Cl2N4
reactant | veratrylamine | 9 mmol, 1.5 g | C(C1=CC(OC)=C(OC)C=C1)N | C9H13NO2
reactant | Et3N | 18 mmol, 2.51 mL | CCN(CC)CC | C6H15N
product | (2-Chloro-9H-purin-6-yl)-(3,4-dimethoxy-benzyl)-amine | 2.69 g, 93.4% | ClC1=NC(=C2N=CNC2=N1)NCC1=CC(=C(C=C1)OC)OC | C14H14ClN5O2
